Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
seasonal allergy
 
Attending: ___.
 
Chief Complaint:
Left ICA aneurysm
 
Major Surgical or Invasive Procedure:
___ Pipeline embolization of Left ICA aneurysm 

 
History of Present Illness:
___ woman who is not working at the present time, but 
previously worked as a ___ and
___.  She was in an auto accident recently and a CT 
angiogram showed a left internal carotid artery aneurysm.  She 
has no family history of aneurysms and is a nonsmoker.  I had a 
long discussion with the patient and her sister through an 
interpreter.  She has a 3-4 mm paraclinoid aneurysm on the left 
side and presents for elective embolization.
 
Past Medical History:
Hyperlipidemia
Left ICA aneurysm
 
Social History:
___
Family History:
___ - mother, two sisters, two brothers
 
Physical ___:
ON DISCHARGE
============

General:
[x]AVSS
T: 99  BP: 106/54  HR: 75  RR: 16  O2Sat: 100% RA
 

Bowel Regimen: [x]Yes [ ]No    Last BM: ___

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  ___       Left   ___

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right555555
Left555555

[x]Sensation intact to light touch

Wound: 
Angio Groin Site: 
[x]hematoma, outline with skin marker - stable, soft  
[x]Palpable pulses

 
Pertinent Results:
please see OMR
 
Brief Hospital Course:
Ms. ___ presents for elective Pipeline embolization of Left 
ICA aneurysm. Please see Angiogram report for details.  Post 
procedure she was noted to have bleeding from the right groin 
with the development of a large hematoma.  Pressure was held 
manually on the groin. She became hypotensive with SBPs in the 
___. STAT labs revealed a drop in hematocrit from 41 preop to 28 
post procedure. She was given an IV fluid bolus but continued to 
be hypotensive throughout her hospitalization. Vascular 
ultrasound was obtained which did not reveal pseudoaneurysm but 
could not rule out vascular malformation.  Vascular surgery was 
consulted and recommended CTA abdomen + pelvis with runoffs.  
This was negative for retroperitoneal hematoma or vascular 
malformation but did reveal femoral stenosis secondary to 
vascular closure device.  This did not require further 
intervention. The patient remained neurologically and 
hemodynamically stable throughout the remainder of her 
hospitalization. Distal pulses  and hematoma were monitored 
closely and remained stable. On ___ patients labs and 
vitals were within normal limits. She was tolerating a regular 
diet and her pain was well controlled. She was mobilizing 
independently and voiding without difficulty. She was medically 
cleared for discharge home on ___. 
 
Medications on Admission:
Tizanidine 2 mg daily
Sertraline 100 mg daily
Prazosin 2 mg BID
Amitriptyline 25 mg prn for sleep, sometimes
Loratidine 10 mg daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*31 
Tablet Refills:*3 
4.  Clopidogrel 75 mg PO/NG DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*31 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ICA aneurysm
Right Groin Hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___

___

- ___ may gradually return to your normal activities, but we 
recommend ___ take it easy for the next ___ hours to avoid 
bleeding from your groin.

- Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.

- ___ make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

- Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.

- ___ make take a shower.

Medications

- Resume your normal medications and begin new medications as 
directed.

- ___ have been instructed by your doctor to take one ___ a 
day and Plavix. If so, do not take any other products that have 
aspirin in them. If ___ are unsure of what products contain 
Aspirin, ask your pharmacist or call our office.

- ___ may use Acetaminophen (Tylenol) for minor discomfort if 
___ are not otherwise restricted from taking this medication.

- If ___ take Metformin (Glucophage) ___ may start it again 
three (3) days after your procedure.

Care of the Puncture Site

- Keep the site clean with soap and water and dry it carefully.

- ___ may use a band-aid if ___ wish.

 
What ___ ___ Experience:

- Mild tenderness and bruising at the puncture site (groin).

- Soreness in your arms from the intravenous lines.

- Mild to moderate headaches that last several days to a few 
weeks.

- Fatigue is very normal

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If ___ are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the puncture 
site.

- Fever greater than 101.5 degrees Fahrenheit

- Constipation

- Blood in your stool or urine

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___